US06919338B2
2-amino-4-benzyloxy-5-methoxybenzonitrile
2-nitro-4-benzyloxy-5-methoxybenzonitrile (40 g, 125 mmol) tetrabutylammonium chloride (21 g, 75 mmol) in methylenechloride (500 ml) was treated with Na2S2O4 (180 g, 87.9 mmol) in H2O (700 ml), sodium hydrosulfite was added over 45 minutes, and the mixture was stirred for 2 hours at room temperature. Sodium hydroxyde was added (pH 8.2) the mixture was extracted with methylene chloride. The organic phase was made acidic with HCl-ether (2.3N, 250 ml), the solid was recovered, suspended in methanol (250 ml) and treated with a saturated solution of sodium bicarbonate (pH 8.1). The solid was recovered, washed with water, ether to give title compound (30.7 g, 97%).

reactant | 2-nitro-4-benzyloxy-5-methoxybenzonitrile | 125 mmol, 40 g | [N+](=O)([O-])C1=C(C#N)C=C(C(=C1)OCC1=CC=CC=C1)OC | C15H12N2O4
reactant | Sodium | [Na] | Na
solvent | methylenechloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 700 ml | O | H2O
solvent | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | Na2S2O4 | 87.9 mmol, 180 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
product | 2-amino-4-benzyloxy-5-methoxybenzonitrile | 30.7 g, 97% | NC1=C(C#N)C=C(C(=C1)OCC1=CC=CC=C1)OC | C15H14N2O2
